US04112086
To a suspension of 21.8 g (0.05 mol) of 7β-amino-3-(1-ethoxyhydroxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid in 500 ml of methylene chloride is added over a 30 minute interval a solution of 60.0 g (0.30 mol) of O-t-butyldiisopropylpseudourea in 100 ml of methylene chloride. The mixture is stirred at ambient temperature for 72 hours. The precipitate is removed by filtration and the filtrate is evaporated to a residue which is taken up in 200 ml of benzene and filtered again. The filtrate is extracted with three 100 ml portions of cold 1N hydrochloric acid. The aqueous extracts are layered with ethyl acetate and the pH is adjusted to 7.5 by addition of solid sodium bicarbonate. The organic layer is separated and the aqueous phase is extracted with two 150 ml portions of ethyl acetate. The combined extracts are dried (MgSO4), filtered and evaporated to dryness to give 7β-amino-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester.

reactant | 7β-amino-3-(1-ethoxyhydroxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 0.05 mol, 21.8 g | N[C@H]1[C@@H]2N(C(=C(CS2)C(OCC)(SC2=NN=NN2)CP(=O)O)C(=O)O)C1=O | C12H17N6O6PS2
reactant | O-t-butyldiisopropylpseudourea | 0.30 mol, 60.0 g | C(C)(C)(C)OC(N(C(C)C)C(C)C)=N | C11H24N2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7β-amino-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)C(OCC)(SC2=NN=NN2)CP(=O)OC(C)(C)C | C20H33N6O6PS2
